US08252803B2
Step 1: N-(5-tert-butyl-2-methylphenyl)-2-chloro-5-fluoropyrimidin-4-amine
A solution of 2,4-dichloro-5-fluoropyrimidine (307 mg, 1.84 mmol), 2-methyl-5-t-butylaniline (300 mg, 1.84 mmol) and diisopropylethylamine (2 mL) in ethanol (2 mL) was heated at 80° C. for 16 h in an oil bath. The mixture was cooled to room temperature and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel Biotage 40M, eluting with EtOAc/hexane to afford the product (369 mg, 68%) as a solid.

reactant | 2,4-dichloro-5-fluoropyrimidine | 1.84 mmol, 307 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 2-methyl-5-t-butylaniline | 1.84 mmol, 300 mg | CC1=C(N)C=C(C=C1)C(C)(C)C | C11H17N
reactant | diisopropylethylamine | 2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(5-tert-butyl-2-methylphenyl)-2-chloro-5-fluoropyrimidin-4-amine | 369 mg, 68% | C(C)(C)(C)C=1C=CC(=C(C1)NC1=NC(=NC=C1F)Cl)C | C15H17ClFN3
